US09403807B2
Step C: methyl 2-(4-chlorophenyl)-2-(4-(N-((2-(trimethylsilyl)ethoxy)methyl)methyl sulfonamido)-1H-indazol-1-yl)butanoate
A solution of methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indazol-1-yl)butanoate (500 mg, 1.19 mmol) in dry THF (8 mL) was treated by NaH (95 mg, 2.38 mmol, 60% in oil) at 0° C. for 30 min, then was added (2-(chloromethoxy)ethyl)trimethylsilane (295 mg, 1.78 mmol) dropwise. The mixture was stirred at room temperature for 2 h. The solution was quenched with saturated NH4Cl solution, and extracted with ethyl acetate (30 mL). The organic layer was washed with brine, dried over dry sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (PE/EA=6/1) to afford the title compound as a pale yellow solid. LC/MS m/z=551.8 [M+H]+.

reactant | methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indazol-1-yl)butanoate | 1.19 mmol, 500 mg | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C19H20ClN3O4S
reactant | NaH | 2.38 mmol, 95 mg | [H-].[Na+]
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 1.78 mmol, 295 mg | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-chlorophenyl)-2-(4-(N-((2-(trimethylsilyl)ethoxy)methyl)methyl sulfonamido)-1H-indazol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1N=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C25H34ClN3O5SSi
